US05998436
Synthesis of 2-amino-3,5,6-trifluoro-4-methylpyridine
To 4 ml of methanol were added all amount of the crude 2-benzylamino-3,5,6-trifluoro-4-methylpyridine as described above together with 0.18 g of 10% palladium on carbon and 2 ml of acetic acid, and the mixture was hydrogenated at 50° C. for one day. The catalyst was separated by filtration, and the solvent and the like were distilled off under reduced pressure to obtain 1.35 g of the title compound as a colorless solid.

reactant | methanol | 4 ml | CO | CH4O
reactant | 2-benzylamino-3,5,6-trifluoro-4-methylpyridine | C(C1=CC=CC=C1)NC1=NC(=C(C(=C1F)C)F)F | C13H11F3N2
catalyst | palladium on carbon | 0.18 g | [Pd] | Pd
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 2-amino-3,5,6-trifluoro-4-methylpyridine | 1.35 g | NC1=NC(=C(C(=C1F)C)F)F | C6H5F3N2
